US06710078B2
According to the procedure of Method A, Example 1, (E)-2-methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone was reacted with 1,3-propanedithiol to provide 5-[2-[(3-mercaptopropyl)thio]-2-(3-thienyl)ethyl]-2-methyl-2-phenylfuran-3(2H)-one: 1H NMR (CDCl3) δ1.65 and 1.68 (singlets, 3H), 2.41 (m, 2H), 1.73-2.20 (overlapping multiplets, 3H), 2.45-2.65 (m, ˜4H) 3.08-3.27 (m, 2H), 4.40 (m, 1H), 5.37 and 5.39 (singlets, 1H), 7.05-7.18 (m, 2H), 7.27-7.45 (m, 6H); MS (HR-FAB) m/z 391.0850 (M+H calcd. for C20H23O2S3 391.0860).

reactant | (E)-2-methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone | CC1(OC(=CC1=O)\C=C\C1=CSC=C1)C1=CC=CC=C1 | C17H14O2S
reactant | 1,3-propanedithiol | C(CCS)S | C3H8S2
product | 5-[2-[(3-mercaptopropyl)thio]-2-(3-thienyl)ethyl]-2-methyl-2-phenylfuran-3(2H)-one | SCCCSC(CC1=CC(C(O1)(C1=CC=CC=C1)C)=O)C1=CSC=C1 | C20H22O2S3
